US06204278B1
6-Bromohexanoyl chloride (234 mg, 1.1 mmols) was gradualy added dropwise to a chloroform (3 ml) solution of 2,4,6-trifluoroaniline (147 mg, 1.0 mmol) and triethylamine (11 mg, 1.1 mmols) cooling in ice bath, and stirred for 1 hour at room temperature. The reaction mixture was concentrated, and extracted with ethyl acetate. The organic layer was washed with 1N-HCl, an aqueous saturated solution of sodium hydrogencarbonate, water, and saturated saline in that order, and dried with anhydrous sodium sulfate, and the solvent was evaporated. Then, the resulting solid was recrystallized from hexan-ether, and 6-bromo-N-(2,4,6-trifluorophenyl)hexan amide 283 mg(yield 87%) was obtained as colorless needle-like crystals. Potassium carbonate (45 mg, 0.33 mmols) and 18-crown-6 (8 mg, 0.03 mmols) were added to DMF (2 ml) solution of the resulting anilide (97 mg, 0.3 mmols) and 2-mercaprbenzoxzole (45 mg, 0.3 mmol), and stirred for 1.5 hours at 80° C. The mixture was diluted with water, and extracted with ethyl acetate. The organic layer was washed with water and saturated saline in that order, and dried with anhydrous sodium sulfate, and the solvent was evaporated. And the resulting crystals were recrystallized from hexane-ether, and colorless needle-like crystals 106 mg (yield: 90%) of the intended product as crystals.

reactant | 6-Bromohexanoyl chloride | 1.1 mmols, 234 mg | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | 2,4,6-trifluoroaniline | 1.0 mmol, 147 mg | FC1=C(N)C(=CC(=C1)F)F | C6H4F3N
reactant | triethylamine | 1.1 mmols, 11 mg | C(C)N(CC)CC | C6H15N
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-bromo-N-(2,4,6-trifluorophenyl)hexan amide | 283 mg, yield 87% | BrCCCCCC(=O)NC1=C(C=C(C=C1F)F)F | C12H13BrF3NO
